US07230031B2
7-[4-Benzyloxy-3-(4-fluorobenzyl)phenoxy]-6-methylindan-4-carbaldehyde
The title compound was prepared in a similar manner to those described in Reference Example 8 using 7-hydroxy-6-methylindan-4-carbaldehyde instead of 5-methyl-7-nitroindan-4-ol and using bis[4-benzyloxy-3-(4-fluorobenzyl)phenyl]iodonium tetrafluoroborate instead of bis(4-methoxyphenyl)iodonium tetrafluoroborate.

reactant | 7-hydroxy-6-methylindan-4-carbaldehyde | OC1=C(C=C(C=2CCCC12)C=O)C | C11H12O2
reactant | bis[4-benzyloxy-3-(4-fluorobenzyl)phenyl]iodonium tetrafluoroborate | F[B-](F)(F)F.C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[I+]C1=CC(=C(C=C1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)F)CC1=CC=C(C=C1)F
product | 7-[4-Benzyloxy-3-(4-fluorobenzyl)phenoxy]-6-methylindan-4-carbaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C(C=C(C=3CCCC23)C=O)C)C=C1)CC1=CC=C(C=C1)F | C31H27FO3
